US05455273
a) trans-4-(4-tert.butoxycarbonyl-methylaminomethyl-phenyl)-N-cyclopropylcyclohexylamine
from 4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-cyclohexanone and cyclopropylamine. Colourless oil. Rf value: 0.51 (alumina, petroleum ether/ethyl acetate=4:1, v:v).

reactant | 4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-cyclohexanone | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)C1CCC(CC1)=O)CNC | C19H27NO3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | trans-4-(4-tert.butoxycarbonyl-methylaminomethyl-phenyl)-N-cyclopropylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NC1CC1)CNC | C22H34N2O2
